US04221794
A mixture of 2-amino-1-octanoic acid (I, 200 g, 1.26 mole) in acetic anhydride (960 ml), and pyridine (640 ml) was heated on a boiling water bath for 4 hr. The reaction mixture was evaporated in vacuo, and the residue was partitioned 6-8 times between 5% aqueous solution of NaHCO3 (400 ml) and ether (400 ml). The combined ethereal extracts were dried with anhydrous MgSO4 and evaporated to dryness to give crude 3-acetamidononan-2-one, 154 g (70%).

reactant | 2-amino-1-octanoic acid | 1.26 mole, 200 g | NC(C(=O)O)CCCCCC | C8H17NO2
reactant | pyridine | 640 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 960 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetamidononan-2-one | C(C)(=O)NC(C(C)=O)CCCCCC | C11H21NO2
